US05891909
c) 3-[5-Methyl-3-(1-naphthalenylsulfonyloxy)phenoxy]propionaldehyde
Sulfur trioxide pyridine complex (800 mg, 5.0 mmol) was added to a solution of 3-[5-methyl-3-(1-naphthalenylsulfonyloxy)phenoxy]propanol (600 mg, 1.6 mmol), as prepared in the preceding step, N,N-diisopropylethylamine (0.7 mL, 5.5 mmol) and anhydrous dimethyl sulfoxide (0.4 mL, 5.6 mmol) in anhydrous dichloromethane (15 mL). The reaction mixture was stirred at ambient temperature for 1 hour and then quenched with 10% aqueous citric acid (60 mL). The mixture was extracted into dichloromethane (3×50 mL), and the dichloromethane solution was washed with 10% aqueous citric acid (40 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane) to give the title compound as a colorless oil (540 mg, 90%). 1H-NMR (300 MHz, CDCl3) δ 9.76 (s, 1H), 8.80 (d, J=8.6 Hz, 1H), 8.14 (d, J=7.7 Hz, 2H), 7.99 (d, J=8.1 Hz, 1H), 7.78 (t, J=8.1 Hz, 1H), 7.67 (t, J=8.1 Hz, 1H), 7.50 (t, J=7.8 Hz, 1H), 6.53 (s, 1H), 6.35 (s, 1H), 6.20 (s, 1H), 4.02 (t, J=6.1 Hz, 2H), 2.76 (t, J=6.1 Hz, 2H), 2.15 (s, 3H).

reactant | 3-[5-methyl-3-(1-naphthalenylsulfonyloxy)phenoxy]propanol | 1.6 mmol, 600 mg | CC=1C=C(C=C(OCCCO)C1)OS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C20H20O5S
reactant | N,N-diisopropylethylamine | 5.5 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 5.6 mmol, 0.4 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-[5-Methyl-3-(1-naphthalenylsulfonyloxy)phenoxy]propionaldehyde | 540 mg, 90% | CC=1C=C(C=C(OCCC=O)C1)OS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C20H18O5S
